* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.011906e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.816829e-01)*u*u + (2.862422e+00)*u + (1.414622e+01)),1.215670e+01),1.277528e+02)}
.param L_a = {min(max(exp((1.387438e-01)*u*u + (2.045569e+00)*u + (-4.586902e+00)),4.061074e-06),4.226106e-05)}
.param R_pl = {min(max(exp((-1.937448e+00)*u*u + (-3.354453e+01)*u + (-1.242172e+02)),9.963546e+04),1.500000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),6.666667e-13),1.500000e-12)}
.param G0 = {((1.904820e-04)*u*u + (4.495638e-03)*u + (2.680951e-02))}
.param G1 = {((4.407529e-05)*u*u + (2.908354e-04)*u + (-2.447360e-03))}
.param w1 = {min(max(exp((3.533867e-02)*u*u + (6.748092e-01)*u + (1.813171e+01)),2.012011e+06),4.746430e+06)}
.param G2 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param G3 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),6.666667e+08),1.500000e+09)}
.param pcb0 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param pcb1 = {((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00))}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.324612e+05),2.980376e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),6.666667e-01),1.500000e+00)}
.param gnw = {min(max(exp((-3.248885e-02)*u*u + (-6.218926e-01)*u + (-1.091719e+01)),2.249586e-04),5.284472e-04)}
.param gn1 = {min(max(exp((-1.859337e-01)*u*u + (-2.947622e+00)*u + (-1.127265e+01)),2.117573e-01),2.203224e+00)}
.param gn2 = {min(max(exp((-1.822306e-01)*u*u + (-2.876810e+00)*u + (-1.234035e+01)),5.220011e-02),5.431591e-01)}
.param gn3 = {min(max(exp((-1.985602e-01)*u*u + (-3.189072e+00)*u + (-1.509890e+01)),1.434604e-02),1.492221e-01)}
.param gn4 = {min(max(exp((-1.695993e-01)*u*u + (-2.635531e+00)*u + (-1.312449e+01)),7.683578e-03),7.991882e-02)}
.param gn5 = {min(max(exp((3.202511e+00)*u*u + (6.392504e+01)*u + (3.037361e+02)),1.494362e-06),3.179344e-03)}
.param gn6 = {min(max(exp((-2.804071e-01)*u*u + (-4.962155e+00)*u + (-3.613096e+01)),1.559725e-07),1.035262e-06)}
.param vreg = {((2.125351e-04)*u*u + (2.673956e-03)*u + (9.080180e-01))}
.param COUT=9.720720e-10 ESR=2.997746e+00    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-5.311771e-03,1.000000e-06,-1.776504e-03,1.300000e-05,-6.876752e-04,2.500000e-05,2.587180e-05,3.700000e-05,5.755828e-04,4.900000e-05,1.033132e-03,6.100000e-05,1.431663e-03,7.300000e-05,1.789302e-03,8.500000e-05,2.117083e-03,9.700000e-05,2.422250e-03,1.090000e-04,2.709832e-03,1.210000e-04,2.983473e-03,1.330000e-04,3.245903e-03,1.450000e-04,3.499223e-03,1.570000e-04,3.745088e-03,1.690000e-04,3.984823e-03,1.810000e-04,4.219507e-03,1.930000e-04,4.450025e-03,2.050000e-04,4.677117e-03,2.170000e-04,4.901399e-03,2.290000e-04,5.123397e-03,2.410000e-04,5.343556e-03,2.530000e-04,5.562256e-03,2.650000e-04,5.779828e-03,2.770000e-04,5.996557e-03,2.890000e-04,6.212689e-03,3.010000e-04,6.428444e-03,3.130000e-04,6.644010e-03,3.250000e-04,6.859558e-03,3.370000e-04,7.075237e-03,3.490000e-04,7.291181e-03,3.610000e-04,7.507511e-03,3.730000e-04,7.724336e-03,3.850000e-04,7.941756e-03,3.970000e-04,8.159860e-03,4.090000e-04,8.378735e-03,4.210000e-04,8.598459e-03,4.330000e-04,8.819106e-03,4.450000e-04,9.040748e-03,4.570000e-04,9.263453e-03,4.690000e-04,9.487289e-03,4.810000e-04,9.712322e-03,4.930000e-04,9.861344e-03,5.010000e-04,1.024057e-02,5.210000e-04,1.062375e-02,5.410000e-04,1.101121e-02,5.610000e-04,1.140332e-02,5.810000e-04,1.180050e-02,6.010000e-04,1.220321e-02,6.210000e-04,1.261201e-02,6.410000e-04,1.302755e-02,6.610000e-04,1.345063e-02,6.810000e-04,1.388220e-02,7.010000e-04,1.432345e-02,7.210000e-04,1.477589e-02,7.410000e-04,1.524140e-02,7.610000e-04,1.572245e-02,7.810000e-04,1.622227e-02,8.010000e-04,1.674516e-02,8.210000e-04,1.729691e-02,8.410000e-04,1.788543e-02,8.610000e-04,1.852155e-02,8.810000e-04,1.922007e-02,9.010000e-04,2.000081e-02,9.210000e-04,2.088919e-02,9.410000e-04,2.191532e-02,9.610000e-04,2.311011e-02,9.810000e-04,2.449836e-02,1.001000e-03,2.609145e-02,1.021000e-03,2.788455e-02,1.041000e-03,2.986033e-02,1.061000e-03,3.199559e-02,1.081000e-03,3.426663e-02,1.101000e-03,3.665213e-02,1.121000e-03,3.913402e-02,1.141000e-03,4.169747e-02,1.161000e-03,4.433047e-02,1.181000e-03,4.702331e-02,1.201000e-03,4.976814e-02,1.221000e-03,5.255856e-02,1.241000e-03,5.538936e-02,1.261000e-03,5.825622e-02,1.281000e-03,6.115556e-02,1.301000e-03,6.408441e-02,1.321000e-03,6.704024e-02,1.341000e-03,7.002090e-02,1.361000e-03,7.302459e-02,1.381000e-03,7.604972e-02,1.401000e-03,7.909495e-02,1.421000e-03,8.215910e-02,1.441000e-03,8.524113e-02,1.461000e-03,8.834016e-02,1.481000e-03,9.145538e-02,1.501000e-03,9.458610e-02,1.521000e-03,9.773168e-02,1.541000e-03,1.008916e-01,1.561000e-03,1.040653e-01,1.581000e-03,1.072524e-01,1.601000e-03,1.104524e-01,1.621000e-03,1.136651e-01,1.641000e-03,1.168900e-01,1.661000e-03,1.201270e-01,1.681000e-03,1.233756e-01,1.701000e-03,1.266358e-01,1.721000e-03,1.299072e-01,1.741000e-03,1.331897e-01,1.761000e-03,1.364831e-01,1.781000e-03,1.397873e-01,1.801000e-03,1.431020e-01,1.821000e-03,1.464272e-01,1.841000e-03,1.497627e-01,1.861000e-03,1.531085e-01,1.881000e-03,1.564644e-01,1.901000e-03,1.598304e-01,1.921000e-03,1.632063e-01,1.941000e-03,1.665922e-01,1.961000e-03,1.699880e-01,1.981000e-03,1.733936e-01,2.001000e-03,1.768090e-01,2.021000e-03,1.802342e-01,2.041000e-03,1.836691e-01,2.061000e-03,1.871138e-01,2.081000e-03,1.905683e-01,2.101000e-03,1.940325e-01,2.121000e-03,1.975066e-01,2.141000e-03,2.009904e-01,2.161000e-03,2.044842e-01,2.181000e-03,2.079878e-01,2.201000e-03,2.115014e-01,2.221000e-03,2.150251e-01,2.241000e-03,2.185589e-01,2.261000e-03,2.221030e-01,2.281000e-03,2.256574e-01,2.301000e-03,2.292224e-01,2.321000e-03,2.327979e-01,2.341000e-03,2.363843e-01,2.361000e-03,2.399817e-01,2.381000e-03,2.435903e-01,2.401000e-03,2.472103e-01,2.421000e-03,2.508421e-01,2.441000e-03,2.544858e-01,2.461000e-03,2.581419e-01,2.481000e-03,2.618106e-01,2.501000e-03,2.654924e-01,2.521000e-03,2.691877e-01,2.541000e-03,2.728970e-01,2.561000e-03,2.766209e-01,2.581000e-03,2.803598e-01,2.601000e-03,2.841145e-01,2.621000e-03,2.878857e-01,2.641000e-03,2.916741e-01,2.661000e-03,2.954805e-01,2.681000e-03,2.993060e-01,2.701000e-03,3.031514e-01,2.721000e-03,3.070179e-01,2.741000e-03,3.109067e-01,2.761000e-03,3.148189e-01,2.781000e-03,3.187560e-01,2.801000e-03,3.227194e-01,2.821000e-03,3.267106e-01,2.841000e-03,3.307314e-01,2.861000e-03,3.347834e-01,2.881000e-03,3.388685e-01,2.901000e-03,3.429888e-01,2.921000e-03,3.471464e-01,2.941000e-03,3.513434e-01,2.961000e-03,3.555822e-01,2.981000e-03,3.598654e-01,3.001000e-03,3.641956e-01,3.021000e-03,3.685757e-01,3.041000e-03,3.730086e-01,3.061000e-03,3.774976e-01,3.081000e-03,3.820462e-01,3.101000e-03,3.866580e-01,3.121000e-03,3.913371e-01,3.141000e-03,3.960877e-01,3.161000e-03,4.009145e-01,3.181000e-03,4.058227e-01,3.201000e-03,4.108176e-01,3.221000e-03,4.159055e-01,3.241000e-03,4.210930e-01,3.261000e-03,4.263873e-01,3.281000e-03,4.317965e-01,3.301000e-03,4.373296e-01,3.321000e-03,4.429966e-01,3.341000e-03,4.488083e-01,3.361000e-03,4.547772e-01,3.381000e-03,4.609169e-01,3.401000e-03,4.673428e-01,3.421000e-03,4.738816e-01,3.441000e-03,4.806440e-01,3.461000e-03,4.876518e-01,3.481000e-03,4.949292e-01,3.501000e-03,5.025032e-01,3.521000e-03,5.104038e-01,3.541000e-03,5.186640e-01,3.561000e-03,5.273203e-01,3.581000e-03,5.364117e-01,3.601000e-03,5.459802e-01,3.621000e-03,5.560693e-01,3.641000e-03,5.667231e-01,3.661000e-03,5.779846e-01,3.681000e-03,5.898933e-01,3.701000e-03,6.024829e-01,3.721000e-03,6.157791e-01,3.741000e-03,6.297970e-01,3.761000e-03,6.445403e-01,3.781000e-03,6.600013e-01,3.801000e-03,6.761622e-01,3.821000e-03,6.929972e-01,3.841000e-03,7.104753e-01,3.861000e-03,7.285632e-01,3.881000e-03,7.472277e-01,3.901000e-03,7.664370e-01,3.921000e-03,7.861618e-01,3.941000e-03,8.063756e-01,3.961000e-03,8.270549e-01,3.981000e-03,8.481783e-01,4.001000e-03,8.697266e-01,4.021000e-03,8.916820e-01,4.041000e-03,9.140279e-01,4.061000e-03,9.367483e-01,4.081000e-03,9.598282e-01,4.101000e-03,9.832529e-01,4.121000e-03,1.007008e+00,4.141000e-03,1.031081e+00,4.161000e-03,1.055307e+00,4.181000e-03,1.079977e+00,4.201000e-03,1.104926e+00,4.221000e-03,1.130139e+00,4.241000e-03,1.155604e+00,4.261000e-03,1.181307e+00,4.281000e-03,1.207237e+00,4.301000e-03,1.233383e+00,4.321000e-03,1.259733e+00,4.341000e-03,1.286276e+00,4.361000e-03,1.313002e+00,4.381000e-03,1.339901e+00,4.401000e-03,1.366962e+00,4.421000e-03,1.394177e+00,4.441000e-03,1.421536e+00,4.461000e-03,1.449031e+00,4.481000e-03,1.476653e+00,4.501000e-03,1.504395e+00,4.521000e-03,1.532249e+00,4.541000e-03,1.560208e+00,4.561000e-03,1.588264e+00,4.581000e-03,1.616412e+00,4.601000e-03,1.644645e+00,4.621000e-03,1.672956e+00,4.641000e-03,1.701341e+00,4.661000e-03,1.729794e+00,4.681000e-03,1.758309e+00,4.701000e-03,1.786882e+00,4.721000e-03,1.815508e+00,4.741000e-03,1.844183e+00,4.761000e-03,1.872902e+00,4.781000e-03,1.901662e+00,4.801000e-03,1.930458e+00,4.821000e-03,1.959288e+00,4.841000e-03,1.988147e+00,4.861000e-03,2.017032e+00,4.881000e-03,2.045940e+00,4.901000e-03,2.074869e+00,4.921000e-03,2.103814e+00,4.941000e-03,2.132775e+00,4.961000e-03,2.161748e+00,4.981000e-03,2.190731e+00,5.001000e-03,2.219721e+00,5.021000e-03,2.248717e+00,5.041000e-03,2.277716e+00,5.061000e-03,2.306716e+00,5.081000e-03,2.335716e+00,5.101000e-03,2.364714e+00,5.121000e-03,2.393708e+00,5.141000e-03,2.422696e+00,5.161000e-03,2.451678e+00,5.181000e-03,2.480650e+00,5.201000e-03,2.509613e+00,5.221000e-03,2.538565e+00,5.241000e-03,2.567505e+00,5.261000e-03,2.596431e+00,5.281000e-03,2.625342e+00,5.301000e-03,2.654238e+00,5.321000e-03,2.683117e+00,5.341000e-03,2.711978e+00,5.361000e-03,2.740821e+00,5.381000e-03,2.769644e+00,5.401000e-03,2.798448e+00,5.421000e-03,2.827230e+00,5.441000e-03,2.855990e+00,5.461000e-03,2.884728e+00,5.481000e-03,2.913443e+00,5.501000e-03,2.942135e+00,5.521000e-03,2.970802e+00,5.541000e-03,2.999444e+00,5.561000e-03,3.028060e+00,5.581000e-03,3.056651e+00,5.601000e-03,3.085216e+00,5.621000e-03,3.113753e+00,5.641000e-03,3.142264e+00,5.661000e-03,3.170746e+00,5.681000e-03,3.199201e+00,5.701000e-03,3.227627e+00,5.721000e-03,3.256024e+00,5.741000e-03,3.284392e+00,5.761000e-03,3.312731e+00,5.781000e-03,3.341040e+00,5.801000e-03,3.369320e+00,5.821000e-03,3.397568e+00,5.841000e-03,3.425787e+00,5.861000e-03,3.453975e+00,5.881000e-03,3.482132e+00,5.901000e-03,3.510257e+00,5.921000e-03,3.538352e+00,5.941000e-03,3.566415e+00,5.961000e-03,3.594446e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.563046e-09        $ corner 18.59 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 6.028105e-10        $ corner 264 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 4.132466e-11        $ corner 3851 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 3.982564e-13        $ corner 3.996e+05 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 1.991289e-13        $ corner 7.993e+05 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 9.133396e-14        $ corner 1.743e+06 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

